US05854274
7-Fluoro-1-nitro-10H-phenothiazine
2.2 g (15 mmol) of 2-amino-5-fluorobenzenethiol was dissolved in 30 ml of dimethylformamide and 2.5 g (12 mmol) of 1-chloro-2,6-dinitrobenzene was added thereto. The resulting mixture was stirred at room temperature. After 12 hours, 2.6 ml of N,N-diisopropylethylamine was added thereto and the mixture was heated at 80° C. for 2 hours. After cooling, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and extracted with ethyl acetate. After concentrating, the residue was purified by silica gel column chromatography. Thus 1.2 g of the title compound was obtained.

reactant | 2-amino-5-fluorobenzenethiol | 15 mmol, 2.2 g | NC1=C(C=C(C=C1)F)S | C6H6FNS
reactant | 1-chloro-2,6-dinitrobenzene | 12 mmol, 2.5 g | ClC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | N,N-diisopropylethylamine | 2.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 7-Fluoro-1-nitro-10H-phenothiazine | 1.2 g | FC=1C=C2SC=3C=CC=C(C3NC2=CC1)[N+](=O)[O-] | C12H7FN2O2S
